US07622589B2
34A) N-(2-Methyl-4-propanoylphenyl)methanesulfonamide
To a solution of 2-methylaniline (2.2 g, 20 mmol, purchased from TCl) in pyridine (1.7 ml. 1.7 g, 21.4 mmol) and DCM (85 ml), methanesulfonyl chloride (1.6 ml, 2.3 g, 20 mmol) was added dropwise over 10 minutes at 0° C. The reaction mixture was stirred at room temperature for 1 hour. After cooling to 0° C., aluminum trichloride (6.8 g, 51 mmol) was added to the reaction mixture carefully. Then acetyl chloride (1.9 g, 20 mmol) was added dropwise over 15 minutes. The reaction mixture was diluted with toluene (25 ml) and poured into 2 M HCl aqueous solution (500 ml) with stirring at 0° C. The precipitates were filtered,washed with water and dried in vacuo to afford the title compound (2.1 g, 43%) as yellow solids.

reactant | 2-methylaniline | 20 mmol, 2.2 g | CC1=C(N)C=CC=C1 | C7H9N
reactant | pyridine | 21.4 mmol, 1.7 ml, 1.7 g | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 20 mmol, 1.6 ml, 2.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | aluminum trichloride | 51 mmol, 6.8 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | acetyl chloride | 20 mmol, 1.9 g | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 2 M, 500 ml | Cl | ClH
solvent | DCM | 85 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-(2-Methyl-4-propanoylphenyl)methanesulfonamide | 2.1 g, 43% | CC1=C(C=CC(=C1)C(CC)=O)NS(=O)(=O)C | C11H15NO3S
